US07544704B2
4-(2-Isopropyl-thiazol-4-ylethynyl)-5-methyl-3-phenyl-isoxazole
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (92 mg, 0.50 mmol) was converted (using 4-bromo-2-isopropylthiazole instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 23 mg, 15%) which was obtained as a yellow oil. MS: m/e=309.3 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.50 mmol, 92 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 4-bromo-2-isopropylthiazole | BrC=1N=C(SC1)C(C)C | C6H8BrNS
product | 4-(2-Isopropyl-thiazol-4-ylethynyl)-5-methyl-3-phenyl-isoxazole | 23 mg, 15% | C(C)(C)C=1SC=C(N1)C#CC=1C(=NOC1C)C1=CC=CC=C1 | C18H16N2OS
